US07777038B2
1-(6-Chloromethylpyridin-2-ylmethyl)-5-(1,3-dioxolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (1.0 g, 2.8 mmol) was added to piperidine (2 ml), followed by stirring in an argon atmosphere at 100° C. for 2 hours. After cooling to room temperature, water and a small quantity of acetic acid were added to the reaction mixture, and extraction with ethyl acetate was performed twice. The organic layers were combined, washed twice with water and once with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The dry product was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 0.73 g (yield: 64%) of 5-(1,3-dioxolan-2-yl)-1-(6-piperidinomethylpyridin-2-ylmethyl)-3,4-dihydro-1H-quinolin-2-one as a light yellow amorphous solid.

reactant | 1-(6-Chloromethylpyridin-2-ylmethyl)-5-(1,3-dioxolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 2.8 mmol, 1.0 g | ClCC1=CC=CC(=N1)CN1C(CCC2=C(C=CC=C12)C1OCCO1)=O | C19H19ClN2O3
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(1,3-dioxolan-2-yl)-1-(6-piperidinomethylpyridin-2-ylmethyl)-3,4-dihydro-1H-quinolin-2-one | 0.73 g, yield: 64% | O1C(OCC1)C1=C2CCC(N(C2=CC=C1)CC1=NC(=CC=C1)CN1CCCCC1)=O | C24H29N3O3
